US07425635B2
2(R,S)-Methylselenazolidine-4(R)-carboxylic acid (MSCA).
L-Selenocystine (0.13 g, 0.39 mmol) was suspended in an evacuated flask containing 0.05 N NaOH (5 mL) and ethanol (1.5 mL). Sodium borohydride (0.05 g, 1.3 mol) was added slowly over about 10 min. The reaction mixture was stirred for an additional 20 min until it changed to colorless and was then placed in an ice bath. The pH was adjusted to 5-6. Acetaldehyde (0.24 mL, 4.3 mmol) was added in 80 μL aliquots over 30 min, and the reaction mixture was stirred for 3 h. At that point, ethanol (20 mL) was added and the mixture was stored in the refrigerator overnight. The yellow precipitate (selenocystine by MS and NMR; data not shown) was filtered off, and the filtrate was dried under vacuum: 0.09 g, 0.47 mmol (60%). Mp 136-138° C. (d). 1H NMR (D2O, 400 MHz) δ diastereomer A 5.1 (q, J=7 Hz, 1H, H-2), 4.6 (t, J=7 Hz, 1H, H-4), 3.5-3.3 (m, 2H, H-5), 1.7 (d, J=7 Hz, 3H, CH3); 13C NMR (D2O, 100 MHz) δ disastereomer A 171.7 (COOH), 66.4 (C-4), 50.7 (C-2), 24.2 (C-5), 18.8 (CH3); diastereomer B 171.5 (COOH), 64.9 (C-4), 50.7(C-2), 24.2 (C-5), 21.1 (CH3); 77Se NMR (D2O, 76.2 MHz) δ 320.2, 315.7 IR (KBr) νmax 3250, 2900, 1690 cm−1. FABMS [M++1] m/z 196.0 (80Se). [α]25−83.9 (c 0.5, water). Anal. calcd for C5H9NO2Se. ½ H2O: C, 29.6; H, 4.96; N, 6.90. Found: C, 29.4; H, 4.45; N, 6.81.

reactant | L-Selenocystine | 0.39 mmol, 0.13 g | C([C@@H](C(=O)O)N)[Se][Se]C[C@@H](C(=O)O)N | C6H12N2O4Se2
reactant | NaOH | 0.05 N, 5 mL | [OH-].[Na+]
reactant | Sodium borohydride | 1.3 mol, 0.05 g | [BH4-].[Na+]
reactant | Acetaldehyde | 4.3 mmol, 0.24 mL | C(C)=O | C2H4O
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 2(R,S)-Methylselenazolidine-4(R)-carboxylic acid | CC1[Se]C[C@H](N1)C(=O)O | C5H9NO2Se
